* Full Signal Chain Triangle Wave 3x3 Matrix Testbench
* IHP SG13G2 PDK — VDD=1.2V
* R-2R DAC → SC SVF (BP, CT equiv) → Behavioral SAR ADC
* 3 triangle frequencies (220, 440, 880 Hz) × 3 cutoff frequencies (50, 440, 1200 Hz)
* = 9 parallel chains in a single transient simulation

.include ../shared/pdk_include.spice

.param vdd_val=1.2
.param vcm=0.6
.param vdd_sq=1.44
.param pi=3.14159265358979
.param c_int=1.1e-12
.param c_q_unit=73.5e-15

* CT equivalent R_eff for each cutoff (Q=1 → R_Q = R_eff)
.param r_fc50=2.894e9
.param r_fc440=328.8e6
.param r_fc1200=120.6e6

* ============================================================
* Subcircuit definitions
* ============================================================

* --- Complementary Switch ---
.subckt cmos_sw out sel selb vhi vlo vdd vss
XMp_hi out selb vhi vdd sg13_lv_pmos w=20e-6 l=0.13e-6
XMn_lo out selb vlo vss sg13_lv_nmos w=10e-6 l=0.13e-6
.ends cmos_sw

* --- 8-bit R-2R DAC ---
.subckt r2r_dac_8bit b7 b6 b5 b4 b3 b2 b1 b0 vout vdd vss
Binv7 b7b 0 V = {vdd_val} - v(b7)
Binv6 b6b 0 V = {vdd_val} - v(b6)
Binv5 b5b 0 V = {vdd_val} - v(b5)
Binv4 b4b 0 V = {vdd_val} - v(b4)
Binv3 b3b 0 V = {vdd_val} - v(b3)
Binv2 b2b 0 V = {vdd_val} - v(b2)
Binv1 b1b 0 V = {vdd_val} - v(b1)
Binv0 b0b 0 V = {vdd_val} - v(b0)
XRterm tap0 vss vss rhigh w=2e-6 l=6.15e-6
XR2R_0 tap0 sw0 vss rhigh w=2e-6 l=6.15e-6
Xsw0 sw0 b0 b0b vdd vss vdd vss cmos_sw
XRs01 tap0 tap1 vss rhigh w=2e-6 l=3.08e-6
XR2R_1 tap1 sw1 vss rhigh w=2e-6 l=6.15e-6
Xsw1 sw1 b1 b1b vdd vss vdd vss cmos_sw
XRs12 tap1 tap2 vss rhigh w=2e-6 l=3.08e-6
XR2R_2 tap2 sw2 vss rhigh w=2e-6 l=6.15e-6
Xsw2 sw2 b2 b2b vdd vss vdd vss cmos_sw
XRs23 tap2 tap3 vss rhigh w=2e-6 l=3.08e-6
XR2R_3 tap3 sw3 vss rhigh w=2e-6 l=6.15e-6
Xsw3 sw3 b3 b3b vdd vss vdd vss cmos_sw
XRs34 tap3 tap4 vss rhigh w=2e-6 l=3.08e-6
XR2R_4 tap4 sw4 vss rhigh w=2e-6 l=6.15e-6
Xsw4 sw4 b4 b4b vdd vss vdd vss cmos_sw
XRs45 tap4 tap5 vss rhigh w=2e-6 l=3.08e-6
XR2R_5 tap5 sw5 vss rhigh w=2e-6 l=6.15e-6
Xsw5 sw5 b5 b5b vdd vss vdd vss cmos_sw
XRs56 tap5 tap6 vss rhigh w=2e-6 l=3.08e-6
XR2R_6 tap6 sw6 vss rhigh w=2e-6 l=6.15e-6
Xsw6 sw6 b6 b6b vdd vss vdd vss cmos_sw
XRs67 tap6 vout vss rhigh w=2e-6 l=3.08e-6
XR2R_7 vout sw7 vss rhigh w=2e-6 l=6.15e-6
Xsw7 sw7 b7 b7b vdd vss vdd vss cmos_sw
.ends r2r_dac_8bit

* --- SC SVF BP mode (CT equivalent, hardwired BP output) ---
.subckt sc_svf_bp_ct vin vout vdd vss r_eff_val=145.1e6 r_q_val=36.28e6
Eoa1 bp_raw 0 vcm1 vg1 10000
Vcm1 vcm1 0 {vcm}
Rout1 bp_raw bp 100
Cint1 vg1 bp {c_int}
Rin1 vin vg1 {r_eff_val}
Rfb lp vg1 {r_eff_val}
Rq bp vg1 {r_q_val}
Eoa_inv lp_raw 0 vcm_inv vg_inv 10000
Vcm_inv vcm_inv 0 {vcm}
Rout_inv lp_raw lp 100
Rinv_in lp_bar vg_inv 100k
Rinv_fb vg_inv lp 100k
Eoa2 lpbar_raw 0 vcm2 vg2 10000
Vcm2 vcm2 0 {vcm}
Rout2 lpbar_raw lp_bar 100
Cint2 vg2 lp_bar {c_int}
Rin2 bp vg2 {r_eff_val}
Rbp bp vout 100
.ends sc_svf_bp_ct

* ============================================================
* Triangle wave DAC stimulus (behavioral quantized code → DAC)
* Code = floor(128 + 100*(2/pi)*asin(sin(2*pi*f*t - pi/2)) + 0.5)
* DAC output = code/255 * VDD (ideal, then fed to R-2R)
* ============================================================

* --- 220 Hz triangle (quantized 8-bit code → ideal DAC voltage) ---
Btri220 dac220 0 V = floor(128+100*(2/{pi})*asin(sin(2*{pi}*220*time-{pi}/2))+0.5)/255*{vdd_val}

* --- 440 Hz triangle ---
Btri440 dac440 0 V = floor(128+100*(2/{pi})*asin(sin(2*{pi}*440*time-{pi}/2))+0.5)/255*{vdd_val}

* --- 880 Hz triangle ---
Btri880 dac880 0 V = floor(128+100*(2/{pi})*asin(sin(2*{pi}*880*time-{pi}/2))+0.5)/255*{vdd_val}

* ============================================================
* 9 parallel signal chains: DAC → SVF(BP) → ADC
* ============================================================
Vdd vdd 0 {vdd_val}

* === 220 Hz × 3 cutoffs ===
Xsvf_220_fc50   dac220 svf_220_fc50   vdd 0 sc_svf_bp_ct r_eff_val={r_fc50}   r_q_val={r_fc50}
Xsvf_220_fc440  dac220 svf_220_fc440  vdd 0 sc_svf_bp_ct r_eff_val={r_fc440}  r_q_val={r_fc440}
Xsvf_220_fc1200 dac220 svf_220_fc1200 vdd 0 sc_svf_bp_ct r_eff_val={r_fc1200} r_q_val={r_fc1200}

* === 440 Hz × 3 cutoffs ===
Xsvf_440_fc50   dac440 svf_440_fc50   vdd 0 sc_svf_bp_ct r_eff_val={r_fc50}   r_q_val={r_fc50}
Xsvf_440_fc440  dac440 svf_440_fc440  vdd 0 sc_svf_bp_ct r_eff_val={r_fc440}  r_q_val={r_fc440}
Xsvf_440_fc1200 dac440 svf_440_fc1200 vdd 0 sc_svf_bp_ct r_eff_val={r_fc1200} r_q_val={r_fc1200}

* === 880 Hz × 3 cutoffs ===
Xsvf_880_fc50   dac880 svf_880_fc50   vdd 0 sc_svf_bp_ct r_eff_val={r_fc50}   r_q_val={r_fc50}
Xsvf_880_fc440  dac880 svf_880_fc440  vdd 0 sc_svf_bp_ct r_eff_val={r_fc440}  r_q_val={r_fc440}
Xsvf_880_fc1200 dac880 svf_880_fc1200 vdd 0 sc_svf_bp_ct r_eff_val={r_fc1200} r_q_val={r_fc1200}

* === Behavioral 8-bit ADC at each SVF output ===
* ADC code = floor(Vsvf/VDD * 255 + 0.5), clamped 0-255
* Reconstruction = code/255 * VDD

Badc_220_fc50   adc_220_fc50   0 V = min(255,max(0,floor(v(svf_220_fc50)/{vdd_val}*255+0.5)))/255*{vdd_val}
Badc_220_fc440  adc_220_fc440  0 V = min(255,max(0,floor(v(svf_220_fc440)/{vdd_val}*255+0.5)))/255*{vdd_val}
Badc_220_fc1200 adc_220_fc1200 0 V = min(255,max(0,floor(v(svf_220_fc1200)/{vdd_val}*255+0.5)))/255*{vdd_val}

Badc_440_fc50   adc_440_fc50   0 V = min(255,max(0,floor(v(svf_440_fc50)/{vdd_val}*255+0.5)))/255*{vdd_val}
Badc_440_fc440  adc_440_fc440  0 V = min(255,max(0,floor(v(svf_440_fc440)/{vdd_val}*255+0.5)))/255*{vdd_val}
Badc_440_fc1200 adc_440_fc1200 0 V = min(255,max(0,floor(v(svf_440_fc1200)/{vdd_val}*255+0.5)))/255*{vdd_val}

Badc_880_fc50   adc_880_fc50   0 V = min(255,max(0,floor(v(svf_880_fc50)/{vdd_val}*255+0.5)))/255*{vdd_val}
Badc_880_fc440  adc_880_fc440  0 V = min(255,max(0,floor(v(svf_880_fc440)/{vdd_val}*255+0.5)))/255*{vdd_val}
Badc_880_fc1200 adc_880_fc1200 0 V = min(255,max(0,floor(v(svf_880_fc1200)/{vdd_val}*255+0.5)))/255*{vdd_val}

.control
  shell rm -f tri_chain_*.dat

  echo "=== Full Chain 3x3 Triangle Wave Matrix ==="
  echo "DAC → SC SVF (BP, Q=1) → ADC"
  echo "Triangle: 220, 440, 880 Hz | Cutoff: 50, 440, 1200 Hz"
  echo ""

  * Single transient: 25ms, 5µs step
  tran 5u 25m

  * Write all 9 chain outputs (DAC input, SVF output, ADC reconstruction)
  wrdata tri_chain_220_fc50.dat   v(dac220) v(svf_220_fc50)   v(adc_220_fc50)
  wrdata tri_chain_220_fc440.dat  v(dac220) v(svf_220_fc440)  v(adc_220_fc440)
  wrdata tri_chain_220_fc1200.dat v(dac220) v(svf_220_fc1200) v(adc_220_fc1200)
  wrdata tri_chain_440_fc50.dat   v(dac440) v(svf_440_fc50)   v(adc_440_fc50)
  wrdata tri_chain_440_fc440.dat  v(dac440) v(svf_440_fc440)  v(adc_440_fc440)
  wrdata tri_chain_440_fc1200.dat v(dac440) v(svf_440_fc1200) v(adc_440_fc1200)
  wrdata tri_chain_880_fc50.dat   v(dac880) v(svf_880_fc50)   v(adc_880_fc50)
  wrdata tri_chain_880_fc440.dat  v(dac880) v(svf_880_fc440)  v(adc_880_fc440)
  wrdata tri_chain_880_fc1200.dat v(dac880) v(svf_880_fc1200) v(adc_880_fc1200)

  * Measure pk-pk at each stage for all 9 chains (steady state: 15-25ms)
  echo "--- 3x3 Matrix Results (pk-pk, 15-25ms window) ---"
  echo ""
  echo "         |  fc=50 Hz          |  fc=440 Hz         |  fc=1200 Hz        "
  echo "  tri_f  |  SVF     ADC       |  SVF     ADC       |  SVF     ADC       "
  echo "  -------+--------------------+--------------------+--------------------"

  * --- 220 Hz row ---
  meas tran s220_50_max  max v(svf_220_fc50)   from=15m to=25m
  meas tran s220_50_min  min v(svf_220_fc50)   from=15m to=25m
  meas tran a220_50_max  max v(adc_220_fc50)   from=15m to=25m
  meas tran a220_50_min  min v(adc_220_fc50)   from=15m to=25m
  let s220_50  = s220_50_max - s220_50_min
  let a220_50  = a220_50_max - a220_50_min

  meas tran s220_440_max max v(svf_220_fc440)  from=15m to=25m
  meas tran s220_440_min min v(svf_220_fc440)  from=15m to=25m
  meas tran a220_440_max max v(adc_220_fc440)  from=15m to=25m
  meas tran a220_440_min min v(adc_220_fc440)  from=15m to=25m
  let s220_440 = s220_440_max - s220_440_min
  let a220_440 = a220_440_max - a220_440_min

  meas tran s220_1200_max max v(svf_220_fc1200) from=15m to=25m
  meas tran s220_1200_min min v(svf_220_fc1200) from=15m to=25m
  meas tran a220_1200_max max v(adc_220_fc1200) from=15m to=25m
  meas tran a220_1200_min min v(adc_220_fc1200) from=15m to=25m
  let s220_1200 = s220_1200_max - s220_1200_min
  let a220_1200 = a220_1200_max - a220_1200_min

  echo "  220 Hz | $&s220_50  $&a220_50 | $&s220_440  $&a220_440 | $&s220_1200  $&a220_1200"

  * --- 440 Hz row ---
  meas tran s440_50_max  max v(svf_440_fc50)   from=15m to=25m
  meas tran s440_50_min  min v(svf_440_fc50)   from=15m to=25m
  meas tran a440_50_max  max v(adc_440_fc50)   from=15m to=25m
  meas tran a440_50_min  min v(adc_440_fc50)   from=15m to=25m
  let s440_50  = s440_50_max - s440_50_min
  let a440_50  = a440_50_max - a440_50_min

  meas tran s440_440_max max v(svf_440_fc440)  from=15m to=25m
  meas tran s440_440_min min v(svf_440_fc440)  from=15m to=25m
  meas tran a440_440_max max v(adc_440_fc440)  from=15m to=25m
  meas tran a440_440_min min v(adc_440_fc440)  from=15m to=25m
  let s440_440 = s440_440_max - s440_440_min
  let a440_440 = a440_440_max - a440_440_min

  meas tran s440_1200_max max v(svf_440_fc1200) from=15m to=25m
  meas tran s440_1200_min min v(svf_440_fc1200) from=15m to=25m
  meas tran a440_1200_max max v(adc_440_fc1200) from=15m to=25m
  meas tran a440_1200_min min v(adc_440_fc1200) from=15m to=25m
  let s440_1200 = s440_1200_max - s440_1200_min
  let a440_1200 = a440_1200_max - a440_1200_min

  echo "  440 Hz | $&s440_50  $&a440_50 | $&s440_440  $&a440_440 | $&s440_1200  $&a440_1200"

  * --- 880 Hz row ---
  meas tran s880_50_max  max v(svf_880_fc50)   from=15m to=25m
  meas tran s880_50_min  min v(svf_880_fc50)   from=15m to=25m
  meas tran a880_50_max  max v(adc_880_fc50)   from=15m to=25m
  meas tran a880_50_min  min v(adc_880_fc50)   from=15m to=25m
  let s880_50  = s880_50_max - s880_50_min
  let a880_50  = a880_50_max - a880_50_min

  meas tran s880_440_max max v(svf_880_fc440)  from=15m to=25m
  meas tran s880_440_min min v(svf_880_fc440)  from=15m to=25m
  meas tran a880_440_max max v(adc_880_fc440)  from=15m to=25m
  meas tran a880_440_min min v(adc_880_fc440)  from=15m to=25m
  let s880_440 = s880_440_max - s880_440_min
  let a880_440 = a880_440_max - a880_440_min

  meas tran s880_1200_max max v(svf_880_fc1200) from=15m to=25m
  meas tran s880_1200_min min v(svf_880_fc1200) from=15m to=25m
  meas tran a880_1200_max max v(adc_880_fc1200) from=15m to=25m
  meas tran a880_1200_min min v(adc_880_fc1200) from=15m to=25m
  let s880_1200 = s880_1200_max - s880_1200_min
  let a880_1200 = a880_1200_max - a880_1200_min

  echo "  880 Hz | $&s880_50  $&a880_50 | $&s880_440  $&a880_440 | $&s880_1200  $&a880_1200"

  echo ""
  echo "Expected behavior:"
  echo "  - fc=50 BP:  all signals (220-880) heavily attenuated (above cutoff)"
  echo "  - fc=440 BP: 440Hz at peak, 220/880 partially attenuated"
  echo "  - fc=1200 BP: 880Hz strongest, 440Hz mild, 220Hz more attenuated"
  echo ""
  echo "=== Full Chain 3x3 Simulation Complete ==="

.endc

.end
